US06720320B2
5-(4-hydroxybenzo(b)furan-2-yl)-3-methyl-1,2,4-oxadiazole
By the reactions in the same manner as in Starting Material Synthesis Example 5 using 5-(4-methoxybenzo(b)furan-2-yl)-3-methyl-1,2,4-oxadiazole (0.98 g) and boron tribromide (3.1 ml), the title compound (0.72 g) was obtained as yellow crystals.

reactant | 5-(4-methoxybenzo(b)furan-2-yl)-3-methyl-1,2,4-oxadiazole | 0.98 g | COC1=CC=CC=2OC(=CC21)C2=NC(=NO2)C | C12H10N2O3
reactant | boron tribromide | 3.1 ml | B(Br)(Br)Br | BBr3
product | 5-(4-hydroxybenzo(b)furan-2-yl)-3-methyl-1,2,4-oxadiazole | 0.72 g | OC1=CC=CC=2OC(=CC21)C2=NC(=NO2)C | C11H8N2O3
